US07087754B2
6-Amino-N-benzyl-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-1-carboxamide (Example 6)
A solution of 4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (210 mg, 1 mmol) in DMF (2 mL) was treated with benzyl isocyanate (123 μL, 1 mmol) and a catalytic amount of DMAP, stirred at room temperature for 1 h, poured into water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by preparative HPLC (MeOH/H2O gradient) to give the title compound (80 mg, 24%) as a pale yellow solid. Method Q 4-(2-Furyl)-1-(4-indolymethyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (Example 65)

reactant | 4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 1 mmol, 210 mg | O1C(=CC=C1)C1=C2C(=NC(=N1)N)NN=C2 | C9H7N5O
reactant | benzyl isocyanate | 1 mmol, 123 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-Amino-N-benzyl-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-1-carboxamide | 80 mg, 24% | NC1=NC(=C2C(=N1)N(N=C2)C(=O)NCC2=CC=CC=C2)C=2OC=CC2 | C17H14N6O2
